US07399778B2
A. 2-Methyl-1-(1-phenyl-1H-pyrazol-5-yl)propan-1-ol
This compound was prepared from 1-phenyl-1H-pyrazole and isobutyraldehyde using the method described in example 10B and isolated as a clear oil in 57% yield.

reactant | 1-phenyl-1H-pyrazole | C1(=CC=CC=C1)N1N=CC=C1 | C9H8N2
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-Methyl-1-(1-phenyl-1H-pyrazol-5-yl)propan-1-ol | 57% yield | CC(C(O)C1=CC=NN1C1=CC=CC=C1)C | C13H16N2O
